US04481211
Preparation of 1-decyl-3-[2-methyl-4-chlorobenzyl]-4-methyl-5-chloroimidazolium chloride
25.6 g (0.1 mole) of 1-decyl-4-methyl-5-chloroimidazole were heated to 100° C., 17.7 g (0.1 mole ) of 4-chloro-o-xylyl chloride were added dropwise, and the mixture was stirred for a further 30 minutes at 125° C.

reactant | 1-decyl-4-methyl-5-chloroimidazole | 0.1 mole, 25.6 g | C(CCCCCCCCC)N1C=NC(=C1Cl)C | C14H25ClN2
reactant | 2-methyl-4-chlorobenzyl chloride | 0.1 mole, 17.7 g | CC1=C(CCl)C=CC(=C1)Cl | C8H8Cl2
product | 1-decyl-3-[2-methyl-4-chlorobenzyl]-4-methyl-5-chloroimidazolium chloride | [Cl-].C(CCCCCCCCC)[N+]1=CN(C(=C1Cl)C)CC1=C(C=C(C=C1)Cl)C | InChI=1S/C22H33Cl2N2.ClH/c1-4-5-6-7-8-9-10-11-14-25-17-26(19(3)22(25)24)16-20-12-13-21(23)15-18(20)2;/h12-13,15,17H,4-11,14,16H2,1-3H3;1H/q+1;/p-1
